US07566735B2
Methyl 4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzoate
A mixture of methyl 4-iodobenzoate (1.40 g, 5.34 mmol), 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole (1.22 g, 6.42 mmol), copper (I) iodide (1 mol %, 10 mg, 0.05 mmol), trans-1,2-diaminocyclohexane (10 mol %, 62 mg, 0.54 mmol) and potassium carbonate (1.56 g, 11.3 mmol) in 1,4-dioxane (8 ml) was stirred at 180° C. in a microwave reactor for 45 minutes, then fresh copper (I) iodide (1 mol %, 10 mg, 0.05 mmol) and trans-1,2-diaminocyclohexane (10 mol %, 62 mg, 0.54 mmol) were added and the reaction stirred at 180° C. in a microwave reactor for 1 h 45 minutes. The reaction mix was cooled and added to a 50 g pre-packed silica column which was then eluted from 0-50% ethyl acetate in petroleum ether to give a crop of the title compound as a brown oil (630 mg, 36%).

reactant | methyl 4-iodobenzoate | 5.34 mmol, 1.40 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | 6.42 mmol, 1.22 g | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
reactant | trans-1,2-diaminocyclohexane | 0.54 mmol, 62 mg | N[C@H]1[C@@H](CCCC1)N | C6H14N2
reactant | potassium carbonate | 11.3 mmol, 1.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | trans-1,2-diaminocyclohexane | 0.54 mmol, 62 mg | N[C@H]1[C@@H](CCCC1)N | C6H14N2
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
catalyst | copper (I) iodide | 0.05 mmol, 10 mg | [Cu]I
catalyst | copper (I) iodide | 0.05 mmol, 10 mg | [Cu]I
product | Methyl 4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzoate | 630 mg, 36% | FC(C1=NN(C=2CCCCC12)C1=CC=C(C(=O)OC)C=C1)(F)F | C16H15F3N2O2
